US07417065B2
To a solution of p-toluidine (0.44 g, 4.1 mmol) in 10 ml of CH2Cl2 (pre-cooled to 0° C.) are added Et3N (1.14 ml, 2 eq.) and 4-chloro-3-trifluoromethyl-benzoyl chloride (1 g, 4.1 mmol) in 5 ml of CH2Cl2. The mixture is slowly warmed to room temperature and continued to stir at room temperature for an hour. The mixture is diluted with 50 ml of CH2Cl2, washed with 1N HCl solution, and brine. The organic layer is separated, dried over MgSO4, filtered, and concentrated. The residue is purified by column chromatography (EtOAc/Hexanes, 2:3) to give 1.25 g (97%) of 4-chloro-N-p-tolyl-3-trifluoromethyl-benzamide.

reactant | p-toluidine | 4.1 mmol, 0.44 g | NC1=CC=C(C=C1)C | C7H9N
reactant | Et3N | 1.14 ml, 2 eq. | CCN(CC)CC | C6H15N
reactant | 4-chloro-3-trifluoromethyl-benzoyl chloride | 4.1 mmol, 1 g | ClC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3Cl2F3O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-p-tolyl-3-trifluoromethyl-benzamide | 1.25 g, 97% | ClC1=C(C=C(C(=O)NC2=CC=C(C=C2)C)C=C1)C(F)(F)F | C15H11ClF3NO
